US07977338B2
0.700 g of a suspension of [4-(2-nitro-phenylamino)-phenyl]-acetic acid methyl ester and 0.240 g of Pd/C (10%) in 20 ml of MeOH is stirred for 3 hours at rt under a hydrogen atmosphere. The mixture obtained is filtered through a pad of Celite and the filtrate obtained is concentrated. [4-(2-Amino-phenylamino)-phenyl]-acetic acid methyl ester is obtained in the form of an oil: ES-MS: 257.1 [M+H]+; single peak at tR=3.04 min (System 1).

reactant | [4-(2-nitro-phenylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C15H14N2O4
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 0.240 g | [Pd] | Pd
product | [4-(2-Amino-phenylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=C(C=CC=C1)N)=O | C15H16N2O2
